US06239131B1
Preparation of (R)-(−)-1-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-tert-butoxycarbonylphenyl)urea
Bromomethyl tert-butylketone (2.95 g), potassium iodide (125 mg), tetra n-butylammonium bromide (145 mg) and potassium carbonate (2.07 g) were added to a solution of (R)-(−)-1-(2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-tert-butoxycarbonylphenyl)urea (7.18 g) in dimethylsulfoxide (100ml), the mixture was stirred for 2hours at room temperature. The reaction mixture was poured into ice-water, extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography(ethyl acetate:n-hexane=1:2), to thereby obtain 8.22 g of the titled compound (Yield 95%).

reactant | Bromomethyl tert-butylketone | 2.95 g | BrCC(=O)C(C)(C)C | C6H11BrO
reactant | potassium carbonate | 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-(−)-1-(2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-tert-butoxycarbonylphenyl)urea | 7.18 g | O=C1[C@@H](CN(C2=C(N1)C=CC=C2)C2CCCCC2)NC(=O)NC2=CC(=CC=C2)C(=O)OC(C)(C)C | C27H34N4O4
catalyst | tetra n-butylammonium bromide | 145 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylsulfoxide | 100ml | CS(=O)C | C2H6OS
catalyst | potassium iodide | 125 mg | [I-].[K+]
product | (R)-(−)-1-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)-3-(3-tert-butoxycarbonylphenyl)urea | 8.22 g, Yield 95% | C(C)(C)(C)C(=O)CN1C([C@@H](CN(C2=C1C=CC=C2)C2CCCCC2)NC(=O)NC2=CC(=CC=C2)C(=O)OC(C)(C)C)=O | C33H44N4O5
